US04125732
Methyl{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate
To a suspension of 8.0 g of sodium hydride (60% dispersion in oil) (washed with hexane) in 190 ml of N,N-dimethylacetamide is added dropwise 35.2 g of methyl p-hydroxyphenylacetate in 60 ml of N,N-dimethylacetamide. The mixture is stirred at room temperature for one hour and at 50° C. for 20 minutes. To the mixture is added dropwise 53 g of 3-(p-chlorophenoxy)propan-2-ol O-methanesulfonate in 100 ml of N,N-dimethylacetamide. The mixture is stirred and heated at 100° C. for 18 hours. After pouring into 2 liters of ice-water containing 6 ml of acetic acid and chilling in an ice bath for 2 hours, the mixture is filtered and the solid washed with water. The damp waxy product is dissolved in dichloromethane and the solution dried (MgSO4). The solvent is removed under reduced pressure to give 52.6 g of product as an oil. The oil is crystallized from hexane and recrystallized from methanol to give the product as white crystals, mp 84°- 85° C.

reactant | sodium hydride | 8.0 g | [H-].[Na+]
reactant | methyl p-hydroxyphenylacetate | 35.2 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | 3-(p-chlorophenoxy)propan-2-ol O-methanesulfonate | 53 g | CS(=O)(=O)OC(C)COC1=CC=C(C=C1)Cl | C10H13ClO4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylacetamide | 190 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 60 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
product | Methyl{p-[2-(p-chlorophenoxy)-1-methylethoxy]phenyl}acetate | 52.6 g | COC(CC1=CC=C(C=C1)OC(COC1=CC=C(C=C1)Cl)C)=O | C18H19ClO4
